US04077982
5-(2-Fluorobenzyloxy)-2-(3-fluorophenyl)-5-methyl-1,3-dioxane
Using the procedure of Example 51, 3-fluorobenzaldehyde and 2-(2-fluorobenzyloxy)-2-methylpropanediol were reacted, using benzene as solvent, to give, after separation by column chromatography, c-5-(2-fluorobenzyloxy)-r-2-(3-fluorophenyl)-5-methyl1,3-dioxane, m.p. 86°-87°, and t-5-(2-fluorobenzyloxy)-r-2-(3-fluorophenyl)-5-methyl-1,3-dioxane, m.p. 83°-84°.

reactant | 3-fluorobenzaldehyde | FC=1C=C(C=O)C=CC1 | C7H5FO
reactant | 2-(2-fluorobenzyloxy)-2-methylpropanediol | FC1=C(COC(C(O)O)(C)C)C=CC=C1 | C11H15FO3
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 5-(2-Fluorobenzyloxy)-2-(3-fluorophenyl)-5-methyl-1,3-dioxane | FC1=C(COC2(COC(OC2)C2=CC(=CC=C2)F)C)C=CC=C1 | C18H18F2O3
